US06319920B1
In dichloromethane (50 ml) was combined 1-(3-nitrophenyl)propan-2-one (1.44 grams, 8 mmole), ethylamine hydrochloride (0.42 grams, 8 mmole), and triethylamine (1.1 ml, 11 mmole). The mixture was stirred under nitrogen at room temperature for 30 minutes. Then sodium triacetoxyborohydride (2.5 grams, 11.7 mmole) was added in one portion. The mixture was stirred under nitrogen 18 hours. Additional ethylamine hydrochloride (0.4 grams) was added. After another 18 hours the mixture was diluted with ethyl ether, washed with 10% sodium hydroxide solution (50 ml), dried over anhydrous magnesium sulfate and the solvent removed under vacuum to give an oil. This oil was taken up into methanol, acidified with 1M hydrochloric acid in ether and the salt was precipitated by further addition of ether. The resulting solid was filtered and air dried to give [2-(1-methyl-2-(3-nitrophenyl)ethyl]ethylamine hydrochloride (1.4 grams, 85%), m.p. 173-175° C., M+H 208.

reactant | 1-(3-nitrophenyl)propan-2-one | 8 mmole, 1.44 grams | [N+](=O)([O-])C=1C=C(C=CC1)CC(C)=O | C9H9NO3
reactant | ethylamine hydrochloride | 8 mmole, 0.42 grams | Cl.C(C)N
reactant | triethylamine | 11 mmole, 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 11.7 mmole, 2.5 grams | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ethylamine hydrochloride | 0.4 grams | Cl.C(C)N
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 2-(1-methyl-2-(3-nitrophenyl)ethyl]ethylamine hydrochloride | 1.4 grams, 85% | Cl.CC(CC1=CC(=CC=C1)[N+](=O)[O-])CCN | InChI=1S/C11H16N2O2.ClH/c1-9(5-6-12)7-10-3-2-4-11(8-10)13(14)15;/h2-4,8-9H,5-7,12H2,1H3;1H
